US08563599B2
2′,7-Dibenzyloxy-4′-(t-butyldimethylsilyloxy)-isoflavone
To a solution of 2′,7-dibenzyloxy-4′-hydroxy-isoflavone (0.450 g, 1 mmol) in 10 mL of DCM was added triethylamine (0.25 mL, 2 mmol) and TBDMSCl (0.225 g, 1.5 mmol). The reaction mixture was stirred at room temperature for ca. 6 hrs. After disappearance of starting material (TLC) the reaction was quenched with 1N HCl (ca. 2 mL). The mixture was extracted with DCM:water (2×10 mL:10 mL). The organic layer was dried over sodium sulfate and evaporated to give 0.507 g (90%) of fluffy, white solid: mp 132-133° C.; TLC Rf0.89 in hexanes:EtOAc (1:1); 1H NMR (400 MHz, DMSO-d6) δ 8.28 (s, 1H, OCH═), 8.04-8.02 (d, 1H, J=8.8 Hz, Ar—H5), 7.50-7.13 (m, 10+3H, C6H5, Ar—H6, H6′, H8), 6.53-6.48 (m, 2H, Ar—H3′/Ar—H5′), 5.27 (s, 2H, Ph-CH2), 5.08 (s, 2H, PhCH2), 0.93 {s, 9H, Si(CH3)3}, 0.16 {s, 6H, Si(CH3)2}; 13C NMR (100 MHz, DMSO-d6) δ 175.1, 163.3, 158.1, 157.9, 157, 155, 137.9, 136.8, 132.7, 129.2, 128.9, 128.8, 128.6, 128.1, 127.7, 127.6, 122.7, 118.4, 115.9, 115.3, 112.1, 105.9, 102.4, 70.8, 70.1, 26.2, 18.6; analysis calcd. for C35H36O5Si.0.25H2O: C, 73.78; H, 6.42. found: C, 73.85; H, 6.38.

reactant | 2′,7-dibenzyloxy-4′-hydroxy-isoflavone | 1 mmol, 0.450 g | C(C1=CC=CC=C1)OC1=C(C2=COC3=CC(=CC=C3C2=O)OCC2=CC=CC=C2)C=CC(=C1)O | C29H22O5
reactant | triethylamine | 2 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | TBDMSCl | 1.5 mmol, 0.225 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2′,7-Dibenzyloxy-4′-(t-butyldimethylsilyloxy)-isoflavone | C(C1=CC=CC=C1)OC1=C(C2=COC3=CC(=CC=C3C2=O)OCC2=CC=CC=C2)C=CC(=C1)O[Si](C)(C)C(C)(C)C | C35H36O5Si
